US05977139
Combine 4-phenylpiperidine-4-carboxylic acid p-toluenesulfonic acid (97.5 g, 0.258 mol), N,N-diisopropylethylamine (55 mL, 0.316 mol), and dimethylformamide (900 mL). Add dropwise, a solution of di-t-butyl dicarbonate (65.0 g, 0.30 mol) in dimethylformamide (300 mL). After 20 hours, dilute the reaction mixture with diethyl ether and extract with three times with water and then with brine. Dry the organic layer over MgSO4, filter, rinse the MgSO4 with dichloromethane. Evaporate in vacuo to give 1-t-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid.

reactant | 4-phenylpiperidine-4-carboxylic acid p-toluenesulfonic acid | 0.258 mol, 97.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | N,N-diisopropylethylamine | 0.316 mol, 55 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-t-butyl dicarbonate | 0.30 mol, 65.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 900 mL | CN(C=O)C | C3H7NO
product | 1-t-butoxycarbonyl-4-phenyl-piperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
